US05420151
a) (R)-3-(N-Isopropyl,N-n-propylamino)-5-methoxycarbonylchroman
(R)-3-(N-Isopropyl,N-n-propylamino)-5-trifluoromethanesulfonyloxychroman (4.0 g, 10.5 mmol), triethylamine (2.3 g, 23.1 mmol) and a mixture of DMF/MeOH (18 mL, 6:2) was mixed in a three necked round-bottom flask. The flask was evacuated followed by inlet of CO-gas (repeated two times). Finally 1,3-bis(diphenylphosphino)propane (0.11 g) and palladium(II)acetate (0.07 g) was added. The mixture was stirred at 70° C. for 17 hours. The reaction mixture was diluted with diethyl ether, washed with 2M NH3 and dried (MgSO4). Removal of solvent in vacuo gave a brown oily residue which was purified by flash chromatography (SiO2, CH2Cl2 /EtOAc; 10:1) to give the title compound in 82% yield (2.5 g). [α]D21 =-131.6° (MeOH, 0.1M) GC-MS(70 eV)=291 (M+), 262 (100%)

reactant | (R)-3-(N-Isopropyl,N-n-propylamino)-5-trifluoromethanesulfonyloxychroman | 10.5 mmol, 4.0 g | C(C)(C)N(CCC)[C@H]1COC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C16H22F3NO4S
reactant | triethylamine | 23.1 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | DMF MeOH | 18 mL | CN(C)C=O.CO
product | (R)-3-(N-Isopropyl,N-n-propylamino)-5-methoxycarbonylchroman | 82% yield | C(C)(C)N(CCC)[C@H]1COC2=CC=CC(=C2C1)C(=O)OC | C17H25NO3
